US03936471
Twenty-three grams of trans-N-(2-ACETAMIDOCYCLOHEXYL)-p-TOLUENESULFONAMIDE was added in portions to a stirred suspension of 7 grams of lithium aluminium hydride and 500ml of anhydrous ether. The mixture was stirred and refluxed for 17 hours. The mixture was decomposed by dropwise addition of water and filtered. The filter cake was extracted with a total of 750 ml of boiling ethyl acetate. The organic portions were combined, dried over magnesium sulfate, then evaporated to dryness. The residue was slurried with ether and filtered. On recrystallization from ether there was obtained trans N-(2-ETHYLAMINOCYCLOHEXYL)-p-TOLUENESULFONAMIDE, mp. 112-4°C.

reactant | trans-N-(2-ACETAMIDOCYCLOHEXYL)-p-TOLUENESULFONAMIDE | Twenty-three grams | C(C)(=O)N[C@H]1[C@@H](CCCC1)NS(=O)(=O)C1=CC=C(C=C1)C | C15H22N2O3S
reactant | lithium aluminium hydride | 7 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 500ml | CCOCC | C4H10O
solvent | water | O | H2O
product | trans N-(2-ETHYLAMINOCYCLOHEXYL)-p-TOLUENESULFONAMIDE | C(C)N[C@H]1[C@@H](CCCC1)NS(=O)(=O)C1=CC=C(C=C1)C | C15H24N2O2S
